US04032652
To a boiling solution of 4.24 g. (0.02 m.) of 3,5-diacetyl-4,6-dihydroxy-2H-pyran-2-one in 200 ml. of methanol is added 2.18 g. (0.02 m.) of p-hydroxyaniline. The resulting mixture is refluxed overnight and filtered to yield 5-acetyl-4-hydroxy-3-[1-(p-hydroxyphenylamino)ethylidene]-2H-pyran-2,6(3H)-dione, m.p. 223°-225° C. Both the mono-and di-sodium salts are prepared upon treatment of the dione with sodium methoxide in methanol.

reactant | 3,5-diacetyl-4,6-dihydroxy-2H-pyran-2-one | C(C)(=O)C=1C(OC(=C(C1O)C(C)=O)O)=O | C9H8O6
reactant | p-hydroxyaniline | OC1=CC=C(N)C=C1 | C6H7NO
solvent | methanol | CO | CH4O
product | 5-acetyl-4-hydroxy-3-[1-(p-hydroxyphenylamino)ethylidene]-2H-pyran-2,6(3H)-dione | C(C)(=O)C1=C(C(C(OC1=O)=O)=C(C)NC1=CC=C(C=C1)O)O | C15H13NO6
